US06821967B2
e. 9-[4-(4-(benzothiazol-2-yl)-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
A suspension of 0.2 g (0.469 mmol) of 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide, 0.17 g (0.775 mmol) of 2-(piperazin-1-yl)-benzothiazole, 0.1 g of potassium carbonate and 1 ml of water in 10 ml of acetonitrile is stirred for 10 hours at ambient temperature. The reaction mixture is then poured onto water, extracted with dichloromethane and the organic phase is dried over sodium sulphate. The product is purified by column chromatography on silica gel (eluant: dichloromethane/acetone =20:1, then dichloromethane/methanol=20:1).

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | 0.469 mmol, 0.2 g | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | 2-(piperazin-1-yl)-benzothiazole | 0.775 mmol, 0.17 g | N1(CCNCC1)C=1SC2=C(N1)C=CC=C2 | C11H13N3S
reactant | potassium carbonate | 0.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 ml | O | H2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 9-[4-(4-(benzothiazol-2-yl)-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C=1SC2=C(N1)C=CC=C2)(F)F | C31H31F3N4OS
